US04029787
4-(4-Methylpiperazine-1-yl)-3-sulfamoylbenzoic acid-amide
165 Grams of 4-chloro-3-sulfamoylbenzoic acid-amide (0.7 mole) were stirred with 0.3 l of N-methylpiperazine for 1 hour at 130° C. Subsequently the reaction mixture was diluted with 2 l of water, and the crystalline precipitate was suction-filtered. The crude product (150 g with a degradation point of 301° C.) was dissolved in 3 l of 0.5N HCl and, after the solution had been decolorized with activated charcoal, the said product was precipitated in a crystalline state, at pH 8, by means of 2N ammonia.

reactant | 4-chloro-3-sulfamoylbenzoic acid-amide | 0.7 mole | ClC1=C(C=C(C(=O)N)C=C1)S(N)(=O)=O | C7H7ClN2O3S
reactant | N-methylpiperazine | 0.3 l | CN1CCNCC1 | C5H12N2
solvent | water | 2 l | O | H2O
product | 4-(4-Methylpiperazine-1-yl)-3-sulfamoylbenzoic acid-amide | CN1CCN(CC1)C1=C(C=C(C(=O)N)C=C1)S(N)(=O)=O | C12H18N4O3S
